US05817671
5-(N-[3-methyl-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.40 gm (1.74 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.34 gm (2.08 mMol) 3-methyl-2-thiophenecarbonyl chloride, 0.51 gm (83%) of the title compound were prepared as a light brown foam essentially by the procedure described in Example 4. A sample was crystallized from ethanol/water for analysis.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.74 mMol, 0.40 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-methyl-2-thiophenecarbonyl chloride | 2.08 mMol, 0.34 gm | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
product | 5-(N-[3-methyl-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.51 gm, 83% | CC1=C(SC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H22N4OS
